US08039490B2
4-[(5-Chloro-thiophen-2-yl)-hydroxy-methyl]-piperidine-1-carboxylic acid tert-butyl ester
From 2-chlorothiophene (183 mg) and 4-formyl-piperidine-1-carboxylic acid tert-butyl ester (300 mg) by procedure D. Yield: 180 mg (38%). Brown oil. MS (m/z): 332.1 ([M+H]+).

reactant | 2-chlorothiophene | 183 mg | ClC=1SC=CC1 | C4H3ClS
reactant | 4-formyl-piperidine-1-carboxylic acid tert-butyl ester | 300 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
product | 4-[(5-Chloro-thiophen-2-yl)-hydroxy-methyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(O)C=1SC(=CC1)Cl | C15H22ClNO3S
